US07235574B2
A solution of 1-but-3-enyl-1H-[1,2,3]triazole (80 mg, 0.65 mmol) in anhydrous THF (5 ml) was treated with 9-BBN (0.5 M in THF, 2.86 ml, 1.43 mmol) at 0° C. and stirred for 2 h at room temperature. This mixture was added to a solution of 4-(4-bromo-benzenesulfonylmethyl)-2-[2-(4-pentafluorosulfanyl-phenyl)-vinyl]-oxazole (345 mg, 0.65 mmol), [Pd(dppf)Cl2] (57 mg, 0.07 mmol) and aqueous cesium carbonate (3M, 0.65 ml, 1.95 mmol) in N,N-dimethyl formamide (4 ml) and stirred for 3 h at 70° C. After cooling to room temperature ethyl acetate (100 ml) was added and the solution washed with water (2×50 ml). The organic layer was concentrated and the crude product purified by flash column chromatography (ethyl acetate) and crystallization from diethyl ether to yield 1-[4-(4-{2-[2-(4-pentafluorosulfanyl-phenyl)-vinyl]-oxazol-4-ylmethanesulfonyl}-phenyl)-butyl]-1H-[1,2,3]triazole as white solid (213 mg, 57%).

reactant | 1-but-3-enyl-1H-[1,2,3]triazole | 0.65 mmol, 80 mg | C(CC=C)N1N=NC=C1 | C6H9N3
reactant | 9-BBN | 1.43 mmol, 0.5 M, 2.86 ml | B1C2CCCC1CCC2 | C8H15B
reactant | 4-(4-bromo-benzenesulfonylmethyl)-2-[2-(4-pentafluorosulfanyl-phenyl)-vinyl]-oxazole | 0.65 mmol, 345 mg | BrC1=CC=C(C=C1)S(=O)(=O)CC=1N=C(OC1)C=CC1=CC=C(C=C1)S(F)(F)(F)(F)F | C18H13BrF5NO3S2
reactant | cesium carbonate | 1.95 mmol, 3M, 0.65 ml | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | N,N-dimethyl formamide | 4 ml | CN(C=O)C | C3H7NO
catalyst | Pd(dppf)Cl2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 1-[4-(4-{2-[2-(4-pentafluorosulfanyl-phenyl)-vinyl]-oxazol-4-ylmethanesulfonyl}-phenyl)-butyl]-1H-[1,2,3]triazole | 213 mg, 57% | FS(C1=CC=C(C=C1)C=CC=1OC=C(N1)CS(=O)(=O)C1=CC=C(C=C1)CCCCN1N=NC=C1)(F)(F)(F)F | C24H23F5N4O3S2
